US08802696B2
To a mixture of 3-formylphenylboronic acid (21.41 g, 143 mmol), 6-bromo-[1,2,4]triazolo[1,5-a]pyridine (28.27 g, 143 mmol) in DMSO (600 mL) and water (50 mL) was added Pd(dppf)Cl2 (5.83 g, 7.14 mmol) and Cs2CO3 (116 g, 357 mmol). The reaction temperature reached 45° C. after the addition. HPLC showed that starting materials were consumed after 15 min. The reaction was diluted with water (400 mL). The black precipitate was collected by filtration and dissolved in DCM (300 mL), and washed with brine (200 mL). The aqueous layer was back extracted with DCM (100 mL). The combined organic layers were filtered through a Celite pad and the filtrate was concentrated to give a black solid mixture. The product was recrystallized in methanol to give 3-([1,2,4]triazolo[1,5-a]pyridin-6-yl)benzaldehyde (27.4 g, 123 mmol, 86% yield) as a pale grey solid: m/z=224.0 [M+1]; 1H NMR (400 MHz, DMSO-D6) 8 ppm 7.74 (t, J=7.68 Hz, 1 H), 7.91-8.02 (m, 2 H), 8.11 (dd, J=9.19, 1.89 Hz, 1 H), 8.17 (d, J=7.81 Hz, 1 H), 8.36 (s, 1 H), 8.57 (s, 1 H), 9.45 (s, 1 H), 10.11 (s, 1 H).

reactant | 3-formylphenylboronic acid | 143 mmol, 21.41 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | 6-bromo-[1,2,4]triazolo[1,5-a]pyridine | 143 mmol, 28.27 g | BrC=1C=CC=2N(C1)N=CN2 | C6H4BrN3
reactant | Cs2CO3 | 357 mmol, 116 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMSO | 600 mL | CS(=O)C | C2H6OS
solvent | water | 50 mL | O | H2O
catalyst | Pd(dppf)Cl2 | 7.14 mmol, 5.83 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-([1,2,4]triazolo[1,5-a]pyridin-6-yl)benzaldehyde | 123 mmol, 27.4 g, 86% yield | N=1C=NN2C1C=CC(=C2)C=2C=C(C=O)C=CC2 | C13H9N3O
